Recorded-load averaged supply probe
Vbattery battery 0 7.4
Rb battery vin .1
Cin vin 0 100u
Vref reference 0 PWL(0 0 .005 5.15)
Bconverter drive 0 V=max(0,min(V(reference),V(vin)-.6))
Drect drive rect DAVG
.model DAVG D(IS=1e-12 N=.01 RS=.001)
Lout rect internal 1u
Rout internal rail .03
Cout rail 0 800u
Rwire rail bus .02
Vwave wave 0 PWL(
+ 0 0
+ 0.05 0
+ 0.051 0.3
+ 0.099 0.3
+ 0.1 -1
+ 0.12 -1
+ 0.121 0
+ 0.15 0
+ )
Bload bus 0 I=V(wave)
Binput vin 0 I=max(V(drive)*I(Lout),0)/(.85*max(V(vin),.5))
Bcontroller vin 0 I=3/max(V(vin),.5)
Rtop0 bus sense0 11918.0
Rbottom0 sense0 0 9900.0
Rfeedback0 gate0 sense0 990000.0
Rpull0 bus gate0 2200
Cgate0 gate0 0 2.2000000000000003e-09
Rbias0 bus refbrake0 2200
Bref0 refbrake0 0 V=min(2.507475,max(V(bus)-1,0))
Berror0 cmp0 0 V=V(refbrake0)-V(sense0)+0.004
Rlag0 cmp0 filt0 10000
Clag0 filt0 0 2e-09
Ssink0 gate0 0 filt0 0 SCOMP0
.model SCOMP0 SW(RON=50 ROFF=1e9 VT=0 VH=.001)
Rbrake0 bus drain0 4.9350000000000005
Sbrake0 drain0 0 gate0 0 SMOS0
.model SMOS0 SW(RON=0.1 ROFF=1e9 VT=100 VH=.05)
Bzener0 gate0 0 I=max(0,(V(gate0)-7.7625)/80.0)
Bquiescent0 bus 0 I=.0008
Rtop1 bus sense1 12221.0
Rbottom1 sense1 0 9900.0
Rfeedback1 gate1 sense1 990000.0
Rpull1 bus gate1 2200
Cgate1 gate1 0 2.2000000000000003e-09
Rbias1 bus refbrake1 2200
Bref1 refbrake1 0 V=min(2.507475,max(V(bus)-1,0))
Berror1 cmp1 0 V=V(refbrake1)-V(sense1)+0.004
Rlag1 cmp1 filt1 10000
Clag1 filt1 0 2e-09
Ssink1 gate1 0 filt1 0 SCOMP1
.model SCOMP1 SW(RON=50 ROFF=1e9 VT=0 VH=.001)
Rbrake1 bus drain1 4.9350000000000005
Sbrake1 drain1 0 gate1 0 SMOS1
.model SMOS1 SW(RON=0.1 ROFF=1e9 VT=2.5 VH=.05)
Bzener1 gate1 0 I=max(0,(V(gate1)-7.7625)/80.0)
Bquiescent1 bus 0 I=.0008
.control
set wr_singlescale
set wr_vecnames
tran 1u 0.15 0 1u uic
wrdata trace.dat v(battery) v(vin) v(drive) v(rect) v(internal) v(rail) v(bus) i(Vbattery) i(Lout) v(wave) v(gate0) v(drain0) v(sense0) v(refbrake0) v(gate1) v(drain1) v(sense1) v(refbrake1)
quit
.endc
.end
